* Z:\mnt\design.r\spice\examples\1304.asc
C1 OUT 0 100µ
D1 N001 OUT MBRS140
L1 IN N001 22µ
R1 N003 0 195K
R2 OUT N003 590K
V1 IN 0 3.2
XU1 N004 N005 IN N001 0 N002 IN N003 LT1304 top=1K bot=1T
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1304.sub
.backanno
.end
